US04965368
Preparation of 2,2-dimethyl-N-trichloroacetyl-5-isopropoxymethyl oxazolidine.
To 20.8 milliliters of 25 percent w/v, 2,2-dimethyl-5-isopropoxymethyl oxazolidine solution in 50 milliliters of benzene was added 5.5 grams of trichloroacetyl chloride. To this solution was added dropwise with cooling, 3.1 grams of trimethylamine. After washing with water, drying and removal of the benzene in vacuo, there was obtained 8.1 grams of the title compound, nD30 1.4603. Analytical data supports the structure.

reactant | 2,2-dimethyl-5-isopropoxymethyl oxazolidine | CC1(OC(CN1)COC(C)C)C | C9H19NO2
reactant | trichloroacetyl chloride | 5.5 grams | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | trimethylamine | 3.1 grams | CN(C)C | C3H9N
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-N-trichloroacetyl-5-isopropoxymethyl oxazolidine | 8.1 grams | CC1(OC(CN1C(C(Cl)(Cl)Cl)=O)COC(C)C)C | C11H18Cl3NO3
